US06927214B1
6,7-Dichloro-2-(thiazol-2-ylsulfanyl)-3-trifluoromethyl-quinoxaline
The title compound was prepared from 2-bromo-6,7-dichloro-3-trifluoromethylquinoxaline and 2-mercaptothiazole in analogy with the method outlined in example 1.

reactant | 2-bromo-6,7-dichloro-3-trifluoromethylquinoxaline | BrC1=NC2=CC(=C(C=C2N=C1C(F)(F)F)Cl)Cl | C9H2BrCl2F3N2
reactant | 2-mercaptothiazole | SC=1SC=CN1 | C3H3NS2
product | 6,7-Dichloro-2-(thiazol-2-ylsulfanyl)-3-trifluoromethyl-quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)SC=1SC=CN1)C(F)(F)F | C12H4Cl2F3N3S2
